US05360808
1,6-Dihydro-1-[2-(4-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid
1,6-dihydro-1-[2-(4-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid methyl ester (0.600 g, 2.0 mmol) was hydrolysed in a mixture consisting of methanol (4.0 ml), water (0.7 ml), and 15% aqueous sodium carbonate (6.0 ml) at 75°-80° C. for 1.25 hours. The solution was acidified (to pH 5.5 with acetic acid). The precipitated product was recovered by filtration, washed with water, and dried, MP: >300° C.

reactant | 1,6-dihydro-1-[2-(4-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid methyl ester | 2.0 mmol, 0.600 g | COC(=O)C1=CN(C(C=C1)=O)CCNC(=O)C1=CC=NC=C1 | C15H15N3O4
reactant | methanol | 4.0 ml | CO | CH4O
reactant | water | 0.7 ml | O | H2O
reactant | sodium carbonate | 6.0 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,6-Dihydro-1-[2-(4-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid | N1=CC=C(C=C1)C(=O)NCCN1C=C(C=CC1=O)C(=O)O | C14H13N3O4
